US07119122B2
2-Chloro-6-methylnicotinonitrile (0.50 g, 3.3 mmol), 3-hydroxybenzaldehyde (0.40 g, 3.3 mmol) and potassium fluoride (0.57 g, 9.8 mmol) were heated with stirring in dry DMF (5 mL) at 120° C. for 7 h. The reaction mixture was cooled, poured into water and extracted with ethyl acetate. The ethyl acetate layer was separated, washed with 1N sodium hydroxide solution (4×), water (4×), brine (1×), and dried over MgSO4. After filtration, the solvent was removed in vacuo to yield 2-(3-formyl-phenoxy)-6-methyl-nicotinonitrile (0.77 g, 97%) as a yellow solid.

reactant | 2-Chloro-6-methylnicotinonitrile | 3.3 mmol, 0.50 g | ClC1=C(C#N)C=CC(=N1)C | C7H5ClN2
reactant | 3-hydroxybenzaldehyde | 3.3 mmol, 0.40 g | OC=1C=C(C=O)C=CC1 | C7H6O2
reactant | potassium fluoride | 9.8 mmol, 0.57 g | [F-].[K+]
reactant | water | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-(3-formyl-phenoxy)-6-methyl-nicotinonitrile | 0.77 g, 97% | C(=O)C=1C=C(OC2=C(C#N)C=CC(=N2)C)C=CC1 | C14H10N2O2
